US04532367
4-chloro-2-ethyl-6-(4'-isopropylbenzyl)-phenol
117.5 g (0.75 mol) 4-chloro-2-ethylphenol are dissolved with 42.25 g (0.25 mol) 4-isopropylbenzylchloride in 200 ml chloroform. 22.5 g water-free zinc chloride are added thereto for the alkylation reaction. Already at 30° C. a powerful reaction takes place. The entire mixture is after-stirred 5-6 h at 60° C. for completion of the alkylation. After a cooling it is subsequently washed three times each with 200 ml water, and then dried across sodium sulfate, after which the solvent chloroform is driven off.

reactant | 4-chloro-2-ethylphenol | 0.75 mol, 117.5 g | ClC1=CC(=C(C=C1)O)CC | C8H9ClO
reactant | 4-isopropylbenzylchloride | 0.25 mol, 42.25 g | C(C)(C)C1=CC=C(CCl)C=C1 | C10H13Cl
reactant | water | 22.5 g | O | H2O
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-chloro-2-ethyl-6-(4'-isopropylbenzyl)-phenol | ClC1=CC(=C(C(=C1)CC1=CC=C(C=C1)C(C)C)O)CC | C18H21ClO
